US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and p-cyanobenzoyl chloride, there is obtained ethyl N-(p-cyanobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a solid, mass spectrum m/e: M+ 395 (5), 366 (24), 194 (100), 165 (18), 130 (20), 102 (14);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | p-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | ethyl N-(p-cyanobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(#N)C1=CC=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C25H21N3O2
